US07884207B2
Acetyl chloride (0.57 mL, 8.1 mmol) was added to a suspension of 4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}piperidin-4-ol (2.50 g, 7.34 mmol) and triethylamine (1.50 mL, 11.0 mmol) in dichloromethane (37 mL) at rt. The resulting solution was stirred for 1 h. The solution was diluted with dichloromethane (100 mL) and washed with water (50 mL) and saturated aqueous sodium bicarbonate (50 mL). The combined aqueous layers were back-extracted with dichloromethane (50 mL). The combined organic layers were washed with brine (50 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure to a brown foam. Purification by flash chromatography (silica gel, eluted with 10% methanol/dichloromethane) provided 1-acetyl-4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}piperidin-4-ol as a white foam (1.8 g, 64%).

reactant | Acetyl chloride | 8.1 mmol, 0.57 mL | C(C)(=O)Cl | C2H3ClO
reactant | 4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}piperidin-4-ol | 7.34 mmol, 2.50 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCNCC1)O | C19H24N4O2
reactant | triethylamine | 11.0 mmol, 1.50 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 37 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-acetyl-4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}piperidin-4-ol | 1.8 g, 64% | C(C)(=O)N1CCC(CC1)(O)CN1C(=NC=2C=NC=3C=CC=CC3C21)COCC | C21H26N4O3
